US06124283
tert-Butyl (R)-4-(7-Amino-5,6,7,8-tetrahydro-1-naphthyl)piperazine-1-carboxylate
To an ice-cooled solution of (R)-2-amino-8-(piperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (1.5 g, 6.5 mmol) and triethylamine (1.0 mL, 7.5 mmol) in methylene chloride (400 mL) was di-tert-butyl dicarbonate (1.5 mL, 6.5 mmol) in methylene chloride (50 mL) added dropwise. After the addition the reaction was allowed to stir at ambient temperature for 1 h and was then washed with a dilute aqueous sodium hydrogen carbonate solution. The methylene chloride phase was dried (Na2SO4), filtered and evaporated in vacuo and the crude product was purified on a silica gel column using chloroform/methanol/concentrated ammonium hydroxide (95:5:0.5) as the eluent to afford 1.0 g (45% yield) of the title compound as a colorless viscous oil: [α]21D +34° (c 1.0, chloroform); EIMS (70 eV) m/z (relative intensity) 331 (100, M+).

reactant | (R)-2-amino-8-(piperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 6.5 mmol, 1.5 g | N[C@H]1CC2=C(C=CC=C2CC1)N1CCNCC1 | C14H21N3
reactant | triethylamine | 7.5 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 6.5 mmol, 1.5 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl (R)-4-(7-Amino-5,6,7,8-tetrahydro-1-naphthyl)piperazine-1-carboxylate | 1.0 g, 45% yield | N[C@@H]1CCC=2C=CC=C(C2C1)N1CCN(CC1)C(=O)OC(C)(C)C | C19H29N3O2
